Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Polytrauma
 
Major Surgical or Invasive Procedure:
Left chest tube placement ___
Tracheostomy and ___ ___
EGD ___

 
History of Present Illness:
___ s/p MVC vs tree transferred from OSH. A&O upon arrival to 
OSH, reported she lost consciousness for unknown period of time 
and hit a tree. Intubated prior to transfer for declining mental 
status. Panscanned, L CT placed for L pnx. L pigtail also placed 
for non-re-expansion. Patient became hypotensive, started on 10 
of Dopamine, given 2L of crystalloids. Digoxin level 3.1 at OSH. 
Transferred to ___, received 2 additional L of crystalloids 
with good response, Dopamine down to 5 in the ED. Transferred to 
___. 
 
Past Medical History:
COPD, afib, hypothyroidism, PVD, obstructive bronchitis, 
cardiomyopathy, CHF, ETOH abuse, MRSA cellulitis of L foot, 
tracheostomy, hysterectomy
 
Social History:
___
Family History:
NC
 
Physical Exam:
Day made CMO:
Gen: Appears cachectic, bruised all over thorax and ___
CV: Irregular
Resp: CTAB, diminished at bases
Abd: Soft, nontender, ___ site clean and dry
Ext: Groin laceration weeping serous fluid but without signs of 
infection. Multiple sites of skin denudation and chronic venous 
stasis ulcers with no signs of infection
 
Pertinent Results:
___ 04:39PM BLOOD Digoxin-4.3*
___ 09:04AM BLOOD Cortsol-16.4
___ 04:39PM BLOOD WBC-19.3* RBC-3.70* Hgb-10.7* Hct-32.7* 
MCV-88 MCH-29.0 MCHC-32.8 RDW-16.3* Plt ___
___ 09:17PM BLOOD Glucose-179* UreaN-15 Creat-1.1 Na-136 
K-3.1* Cl-106 HCO3-21* AnGap-12

CT chest/abdomen/pelvis:
1. Moderate-sized pneumothorax, mild rightward displacement of 
the 
mediastinum. Left thoracostomy tube within the upper pleural 
space with 
contusion in the left upper lobe and moderate left pleural 
effusion. 
2. Multiple left rib fractures and sternal fracture. 
4. Moderate-to-severe emphysema. An 8-mm left upper lobe nodule 
warrants 
evaluation in six months with a chest CT following resolution of 
acute 
symptoms or evaluation with PET-CT should be considered with 
attention in 
follow-up to mildly prominent central mediastinal nodes. 
5. Extensive right basilar opacity with volume loss including 
mucus plugging, suggesting extensive atelectasis versus 
aspiration or pneumonia. 
6. Severe atherosclerotic calcifications of the coronary vessels 
and aorta. 2.4-cm infrarenal abdominal aortic ectasia. 3-cm left 
iliac arterial aneurysm. No evidence of rupture. Follow-up CT 
imaging is recommended within six months for surveillance.  
7. Endotracheal tube terminating at the distal trachea. 
Orogastric tube 
terminating within the stomach.  
8. 19 x 14-mm non-obstructing right renal pelvis stone. Likely 
tiny left 
hemorrhagic renal cyst. 

CT Cspine:
1. Nondisplaced fractures of the left T2 and T3 transverse 
processes. There is a small hematoma within the left 
supraclavicular fossa and along the base of the posterolateral 
left neck. 
2. Acute left clavicle fracture. 
3. Trace left pneumothorax. 
4. Emphysema. 

XR R knee: No definite fracture. If there is continued concern, 
given the history of trauma, recommend CT. 

L Foot: There is generalized osteopenia of the visualized bony 
elements. However, no evidence of gas in soft tissues or bone 
destruction. There is a moderate inferior calcaneal spur. 

L Hand: 1. Intra-articular fracture of the long finger proximal 
phalanx. 2. Degenerative changes. 

MR Head: 
1. Study limited due to motion-related artifacts. Within this 
limitation, 
there is no obvious focus of slow diffusion to suggest an acute 
infarct. No mass effect.   
2. Moderate dilation of the lateral and the third ventricles, as 
described 
above, which may relate to volume loss or communicating 
hydrocephalus such as NPH. Correlate clinically.  
3. Diffuse mucosal thickening and fluid in the mastoid air 
cells, moderate 
amount of fluid in the sphenoid sinus and mild-to-moderate 
mucosal thickening in the ethmoid air cells. 
4. Diffuse hypointense signal of the marrow is noted related to 
anaemia, 
myeloproliferative or infiltrative disorders. Correlate with 
hematology labs.  

Echo: The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Right ventricular 
chamber size is normal. with normal free wall contractility. The 
number of aortic valve leaflets cannot be determined. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

Renal US: 
1. No hydronephrosis bilaterally. Subcentimeter non-obstructive 
right renal calculus. Limited Doppler images show normal 
arterial and venous flow at the renal hilae bilaterally. 
2. Heterogenous area within the right lobe of liver concerning 
for a mass but incidentally noted and only partially imaged. 
Dedicated ultrasound imaging of the liver is recommended. 
3. Increase in amount of intraabdominal ascites. 
4. Apparent fluid distended bladder may represent a pocket of 
ascitic fluid given reported presence of Foley catheter. 
 
Brief Hospital Course:
Ms. ___ work up in the ED revealed the following injuries:
- L clavicle fracture
- L ribs ___ fracture with associated pneumothorax s/p chest 
tube and pigtail placement
- Sternal fracture  
- T2-T4 L transverse process fractures  

She was transferred to the TSICU for further management. Her 
course is below by system:

Neuro: Patient's CT evaluations revealed no head or spinous 
trauma. Her c-collar was kept on until cleared by neurosurgery. 
She was taken off log roll. She was neurologically intact while 
intubated, though sedated on propofol and fentanyl. Given her 
prior possible history of ethanol abuse, she was monitored with 
a CIWA scale. Her sedation was weaned as her pain improved, 
however she was lethargic and minimally responsive. Neurology 
was consulted and an MRI was performed which ruled out stroke. 
Neurology felt her mental status was a result of her global 
trauma state. She gradually improved and was intermittently 
aware and interative, though resigned mostly.

CV: On admission, patient was found to have a supratherapeutic 
digoxin level. She received digibind on HD1 and was seen by the 
cardiology team. Echo was performed with preserved EF and 
hypokinesis of the left ventricular wall inferomedially. She 
required pressor support despite fluid resuscitation and blood 
transfusion, prompting adrenal cortical evaluation. Cortisol was 
relatively low for her stressed state and she was started on 
hydrocortisone, allowing a small wean in her pressor 
requirement. With antibiotic therapy for sepsis from MSSA 
pneumonia, patient's pressors were weaned off. Her bradycardia 
improved and she was taken off dopamine. Cardiology was 
consulted for possible pacer, however, given her fragile state 
and high risk for infection and skin breakdown, it was not 
recommended. Repeat echo on ___ showed normal cardiac 
function with no valvular disease. Patient had almost daily 
episodes of bradycardia with hypotension and lethargy requiring 
atropine to recover. After a long discussion with the family, 
the decision was made not to escalate care and to only provide a 
maximum of 2 mg of atropine for symptomatic bradycardia and the 
patient was made DNR.

Resp: Patient was intubated prior to arrival in our ED. A large 
air leak was noted in her chest tube, presumably from 
parenchymal injury to the lung. Chest tube was kept on suction 
until air leak diminished and then changed to waterseal. Pigtail 
was removed on ___. Significant consolidation of the RLL was 
noted on CXR and CT. Bronchoscopy showed thin bloody secretions 
consistent with pulmonary contusion. BAL was initially negative 
for pneumonia, however repeat bronchoscopy showed purulent 
secretions in the RLL which grew MSSA. Patient was treated with 
a complete course of cipro and vanc. Her left chest tube was 
removed on ___ after a clamp trial with xray showing no 
pneumothorax. 

Patient was difficult to wean from the ventilator. Tracheostomy 
was performed on ___. Pressure support weans were attempted 
daily with some improvement. Diuresis was attempted with minimal 
improvement. Patient would develop severe respiratory acidosis 
as pressure sipport was weaned. Patient was gradually weaned 
down to CPAP but required being turned back to CMV with each 
bradycardic episode. 

GI: Patient was kept NPO initially due to abdominal distension. 
Bladder pressures were normal. Once distension resolved, she was 
started on tube feeds which she tolerated well. Patient was 
noted to have melena on ___, though her Hct was stable. EGD 
showed mild gastritis and she was kept on BID protonix. Her 
melena resolved thereafter.

GU: Urine output was low to normal during initial post-trauma 
period. Cr began to rise and peaked at 1.7. UA was positive and 
patient was started on cipro on HD1, however cultures were 
ultimately negative. Patient has persistent anion gap metabolic 
acidosis with acute kidney injury. Renal was consulted with 
recommendations for presumed renal tubular acidosis, treated 
with bicarb. Her creatitine gradually improved.

Heme: Patient received 2U PRBC for persistent hypotension and 
Hct of 23 post-injury. She was tranfused intermittently when Hct 
was below 22.  Once Hct was stable, she was started on Heparin 
SC for DVT prophylaxis.

ID: Patient was noted to have a UTI upon admission and was 
started on cipro. With persistent hypotension, no evidence of 
cardiac dysfunction, and possible RLL pneumonia, coverage was 
expanded to include vanco and cefepime. She was treated for a 
complete course as above.

Endo: Patient was treated with stress steroids for persistent 
hypotension and relative adrenal insufficiency, which were 
gradually weaned off. She was kept on an insulin sliding scale.

MSK: Patient's clavicle, sternal, and rib fractures were treated 
nonoperatively.

After multiple family meetings about the patient's prognosis, 
the family chose to make the patient "Comfort measures only" 
given her fragile condition, lack of options for long term 
treatment of her bradycardia, and persistent respiratory 
failure. She was extubated on ___ and expired shortly 
thereafter. 
 
Medications on Admission:
Digoxin 0.125mg daily, furosemide 40mg BID, and levothyroxine 
50mcg daily.
 
Discharge Medications:
NA
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Polytrauma
- L clavicle fracture
- L ribs ___ fracture with associated pneumothorax s/p chest 
tube and pigtail placement
- Sternal fracture  
- T2-T4 L transverse process fractures  
- Symptomatic bradycardia
- Respiratory failure

 
Discharge Condition:
Deceased
 
Discharge Instructions:
NA
 
Followup Instructions:
___